US09102623B2
A16.2) 5-Chloro-6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid
1.54 g (4.33 mmol) of methyl 5-chloro-6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxylate were dissolved in 23 ml of methanol, and a solution of 0.16 g (6.5 mmol) of lithium hydroxide in 13 ml of water was added. After two hours of heating under reflux, the methanol was distilled off, and the aqueous solution that remained was washed with dichloromethane. The aqueous phase was then acidified with 2N hydrochloric acid and extracted with dichloromethane. Drying and concentration of the extract gave 1.45 g (98% o of theory) of a brownish powder.

reactant | methyl 5-chloro-6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 4.33 mmol, 1.54 g | ClC=1C=C(C(NC1C(C(C(F)(F)F)(F)F)(F)F)=O)C(=O)OC | C10H5ClF7NO3
reactant | lithium hydroxide | 6.5 mmol, 0.16 g | [OH-].[Li+]
solvent | methanol | 23 ml | CO | CH4O
solvent | water | 13 ml | O | H2O
product | 5-Chloro-6-(heptafluoropropyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | ClC=1C=C(C(NC1C(C(C(F)(F)F)(F)F)(F)F)=O)C(=O)O | C9H3ClF7NO3
